US06777408B1
5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-3-hydroxy-N-(4-methoxy-2-nitrophenyl)-2-oxo-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carbothioamide
5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-3-hydroxy-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-2-one (0.167 g, 0.29 mmol) is dissolved in dichloromethane (2 ml). Triethylamine (0.06 ml, 0.44 mmol) then 4-methoxy 2-nitrophenylisothiocyanate (0.062 g, 0.29 mmol) are added. After agitation at 23° C. for 2 hours, the solvent is evaporated off. After purification by chromatography on a silica column (eluent: dichloromehane-methanol: 98-2), the fractions contining only the product are evaporated. The solid is taken up in ether and a drop of dichloromethame and a drop of acetone are added. After filtration on flit and washing the solid with ether, the desired product is obtained in the form of a yellow powder (0.08 g, 41%).

reactant | 5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-3-hydroxy-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-2-one | 0.29 mmol, 0.167 g | ClC1=C(C=CC=C1)C=1C2=C(N(C(C(N1)O)=O)CCC1=CC=CC=C1)SC1=C2CCNC1 | C24H22ClN3O2S
reactant | Triethylamine | 0.44 mmol, 0.06 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy 2-nitrophenylisothiocyanate | 0.29 mmol, 0.062 g | COC1=CC(=C(C=C1)N=C=S)[N+](=O)[O-] | C8H6N2O3S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5-(2-chlorophenyl)-1,2,3,6,7,9-hexahydro-3-hydroxy-N-(4-methoxy-2-nitrophenyl)-2-oxo-1-(2-phenylethyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carbothioamide | ClC1=C(C=CC=C1)C=1C2=C(N(C(C(N1)O)=O)CCC1=CC=CC=C1)SC1=C2CCN(C1)C(NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=S | C32H28ClN5O5S2
